US06720324B2
N1-[4-(AMINOMETHYL)CYCLOHEXYL]-1-NAPHTHAMIDE:
HCl in dioxane (10 mL, 4 N) was added to a solution of tert-butyl[4-(1-naphthoyl-amino)cyclohexyl]methylcarbamate (0.350 g) in dichloromethane (20 mL), stirred overnight, concentrated in vacuo, giving the desired product: 1H NMR δ 8.24 (dd, 1 H, J=1.2, 8.7 Hz), 7.85 (dt, 2 H, J=2.7, 9.7 Hz), 7.60-7.30 (m, 4 H), 5.98 (m, 1 H), 4.02 (m, 1 H), 3.80-3.40 (m, 4 H), 2.53 (d, 2 H, J=6.0 Hz), 2.02 (ABq, 4 H), 1.41-1.90 (m, 4 H).

reactant | HCl | Cl | ClH
reactant | tert-butyl[4-(1-naphthoyl-amino)cyclohexyl]methylcarbamate | 0.350 g | C(C)(C)(C)OC(NCC1CCC(CC1)NC(=O)C1=CC=CC2=CC=CC=C12)=O | C23H30N2O3
solvent | dioxane | 4 N, 10 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N1-[4-(AMINOMETHYL)CYCLOHEXYL]-1-NAPHTHAMIDE | NCC1CCC(CC1)NC(=O)C1=CC=CC2=CC=CC=C12 | C18H22N2O
